US07790712B2
Synthesis of 4,4-dimethyl-1-oxo-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole-7-carboxylic acid thiazol-2-ylamide
To a suspension of 24 mg (0.093 mmol) of 4,4-dimethyl-1-oxo-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole-7-carboxylic acid in 2:1 CH2Cl2/THF (3 mL) was added 16 μL (0.19 mmol) oxalyl chloride followed by two drops of 10% DMF in THF. After stirring for 1 h, the mixture was concentrated and 1 mL of CH2Cl2 was added followed by 19 mg (0.19 mmol) of 2-aminothiazole and 22 μL (0.19 mmol) of 2,6-lutidine. The mixture was stirred overnight, concentrated, and chromatographed (0-8% MeOH in CH2Cl2) to provide 17 mg of the title compound. ESI-MS m/z 340.9 [M+H]+.

reactant | 4,4-dimethyl-1-oxo-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole-7-carboxylic acid | 0.093 mmol, 24 mg | CC1(CNC(C=2N1C=1C=C(C=CC1C2)C(=O)O)=O)C | C14H14N2O3
reactant | oxalyl chloride | 0.19 mmol, 16 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminothiazole | 0.19 mmol, 19 mg | NC=1SC=CN1 | C3H4N2S
reactant | 2,6-lutidine | 0.19 mmol, 22 μL | N1=C(C=CC=C1C)C | C7H9N
catalyst | DMF | two drops | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | CH2Cl2 THF | 3 mL | C(Cl)Cl.C1CCOC1
product | 4,4-dimethyl-1-oxo-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole-7-carboxylic acid thiazol-2-ylamide | 17 mg | S1C(=NC=C1)NC(=O)C=1C=CC=2C=C3N(C2C1)C(CNC3=O)(C)C | C17H16N4O2S
